US08975254B2
a) (R)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile
2-Chloro-4-(1H-pyrazol-3-yl)benzonitrile (1.45 g, 7.13 mmol) was reacted with N-Boc-(R)-1-amino-2-propanol (1.50 g, 8.56 mmol) in the presence of triphenylphosphine and DIAD using the method of Example 99. After Boc-deprotection 843 mg (45%) of the title compound was obtained. 1H-NMR (400 MHz; d6-DMSO): δ 1.43 (d, 3H), 3.53-3.67 (m, 1H), 4.29-4.38 (m, 1H), 4.69-4.83 (m, 1H), 6.96 (d, 1H), 7.89 (d, 1H), 7.95 (dd, 1H), 7.97 (dd, 1H), 8.10-8.12 (m, 1H). m/z [260.7+1].

reactant | 2-Chloro-4-(1H-pyrazol-3-yl)benzonitrile | 7.13 mmol, 1.45 g | ClC1=C(C#N)C=CC(=C1)C1=NNC=C1 | C10H6ClN3
reactant | N-Boc-(R)-1-amino-2-propanol | 8.56 mmol, 1.50 g | C(=O)(OC(C)(C)C)NC[C@@H](C)O | C8H17NO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
product | (R)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | NC[C@@H](C)N1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl | C13H13ClN4
